US20010027196A1
2-Amino-4-isopropoxy-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile, isopropanol and DBU in DME. EI-MS m/e (%): 254 (M+, 41), 212 ([M—C3H6]+, 55), 184 (35), 170 (100).

reactant | 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-isopropoxy-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OC(C)C)C#N)C1=CC=CC=C1 | C14H14N4O
